US06355662B1
H. Methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid benzyl ester
To a stirred solution of [4-(3-o-tolyl-ureido)-phenyl]-acetic acid (3.0 g), L-leucine benzyl ester (4.2 g), triethylamine (1.6 ml), and HOBT (1.6 g) in dry DMF (50 ml) at room temperature was added EDCI (2.4 g). After 16 h the mixture was poured into water (400 ml) and extracted with EtOAc (400 ml×2). The combined organics were washed with 5% citric acid (100 ml); saturated NaHCO3 (100 ml); water (100 ml), brine (100 ml); dried over MgSO4; filtered, and concentrated under reduced pressure to about 100 ml. The resulting suspension was filtered to give 4.0 g of the title compound as a white solid. MS [M+1]+488.2; 1H nmr (400 MHz, DMSO-d6) δ0.79 (d, J=6.4 Hz, 3H), 0.86 (d, J=6.4 Hz, 3H), 1.45-1.63 (m, 3H), 2.21 (s, 3H), 3.37 (s, 2H), 4.26-4.31 (m, 1H), 5.07 (s, 2H), 6.91 (t, 1H), 7.09-7.15 (m, 4H), 7.29-7.37 (m, 7H), 7.81 (d, 1H), 7.86 (s, 1H), 8.44 (d, 1H), 8.93 (s, 1H).

reactant | [4-(3-o-tolyl-ureido)-phenyl]-acetic acid | 3.0 g | C1(=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)O)=O)C | C16H16N2O3
reactant | L-leucine benzyl ester | 4.2 g | C(C1=CC=CC=C1)OC([C@@H](N)CC(C)C)=O | C13H19NO2
reactant | HOBT | 1.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.4 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
solvent | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
product | Methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid benzyl ester | 4.0 g | C(C1=CC=CC=C1)OC(C(CCC)(NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)C)=O | C29H33N3O4
